US09034900B2
Step 5: N-[6-(2,4-difluorophenoxy)-5-(6-methyl-7-oxofuro[2,3-c]pyridin-4-yl)pyridin-3-yl]ethanesulfonamide
A mixture of N-[6-(2,4-difluorophenoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]ethanesulfonamide (145 mg, 0.38 mmol), 4-bromo-6-methyl-6H,7H-furo[2,3-c]pyridin-7-one (75 mg, 0.33 mmol), K3PO4 (175 mg, 0.83 mmol), Pd(dppf)Cl2 (24 mg, 10%) in dioxane/H2O (2.2 mL/200 uL) was bubbled with nitrogen for 5 min. The sealed vial was stirred at 70° C. for 4 h. After the reaction mixture was filtered through a short plug of celite, the plug was washed with EtOAc (15 mL). The filtrate was washed with water and brine, the organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford a tan residue. The resulting residue was purified by prep-HPLC to afford the title compound (50 mg, 33%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.18-1.28 (m, 3H) 3.10-3.21 (m, 2H) 3.59-3.65 (m, 3H) 6.85-6.95 (m, 1H) 7.07-7.19 (m, 1H) 7.35-7.51 (m, 2H) 7.73-7.79 (m, 1H) 7.80-7.85 (m, 1H) 7.90-7.97 (m, 1H) 8.14-8.20 (m, 1H) 9.78-10.09 (m, 1H). LCMS (M+H)+=461.

reactant | N-[6-(2,4-difluorophenoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]ethanesulfonamide | 0.38 mmol, 145 mg | FC1=C(OC2=C(C=C(C=N2)NS(=O)(=O)CC)B2OC(C(O2)(C)C)(C)C)C=CC(=C1)F | C19H23BF2N2O5S
reactant | 4-bromo-6-methyl-6H,7H-furo[2,3-c]pyridin-7-one | 0.33 mmol, 75 mg | BrC=1C2=C(C(N(C1)C)=O)OC=C2 | C8H6BrNO2
reactant | K3PO4 | 0.83 mmol, 175 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane H2O | 2.2 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[6-(2,4-difluorophenoxy)-5-(6-methyl-7-oxofuro[2,3-c]pyridin-4-yl)pyridin-3-yl]ethanesulfonamide | 50 mg, 33% | FC1=C(OC2=C(C=C(C=N2)NS(=O)(=O)CC)C=2C3=C(C(N(C2)C)=O)OC=C3)C=CC(=C1)F | C21H17F2N3O5S
